US07229943B2
Preparation of 1-(4,7-Diphenyl-1H-benzimidazol-2-yl)ethanol
A mixture of 1.25 g (4.8 mmol) 1,1′:4′,1″-terphenyl-2′,3′-diamine, 0.75 ml (8.6 mmol) 85% aq. lactic acid and 4.8 ml 4N HCl were stirred at reflux for 6 hours and then the volatile materials evaporated over 1 hour. The oily residue was heated to 140° C. and stirred for 15 min. After cooling to room temperature 10 ml water were added and the mixture triturated for 30 min. Addition of conc. NH4OH to pH˜7.5–8 followed by filtration, washing with water (4×10 ml) and drying under vacuum at 60° C. gave 1.25 g (82.8%) of the desired product. 1H NMR (250 MHz, CDCl3), δ, ppm: 1.58 (d, JHH=6.7 Hz, 3H), 3.64 (br.s, 1H), 5.07 (q, 1H), 7.37–7.76 (m, 12 H), 9.53 (br. s, 1H).

reactant | 1,1′:4′,1″-terphenyl-2′,3′-diamine | 4.8 mmol, 1.25 g | C1(=CC=CC=C1)C=1C(=C(C(=CC1)C1=CC=CC=C1)N)N | C18H16N2
reactant | lactic acid | 8.6 mmol, 0.75 ml | C(C(O)C)(=O)O | C3H6O3
reactant | HCl | 4N, 4.8 ml | Cl | ClH
product | 1-(4,7-Diphenyl-1H-benzimidazol-2-yl)ethanol | 1.25 g, 82.8% | C1(=CC=CC=C1)C1=CC=C(C=2NC(=NC21)C(C)O)C2=CC=CC=C2 | C21H18N2O
